US08080552B2
iii) 1-(4-Chloro-3-trifluoromethyl-phenyl)-3-{3-chloro-4-[2-(3-hydroxy-propylamino)-pyrimidin-4-yloxy]-phenyl}-urea
A solution of 205 mg (0.926 mmol) 4-chloro-3-trifluoromethyl-phenyl isocyanate in 3 ml THF was added within 10 min. to a solution of 273 mg (0.926 mmol) 3-[4-(4-amino-2-chloro-phenoxy)-pyrimidin-2-ylamino]-propan-1-ol in 3 ml THF and stirring continued overnight. The reaction mixture was evaporated and purified by chromatography on silica (dichloromethane/ethanol 97:3). The obtained material was stirred with dichloromethane. The precipitate was filtered and dried to yield 130 mg of the title compound.

reactant | 4-chloro-3-trifluoromethyl-phenyl isocyanate | 0.926 mmol, 205 mg | ClC1=C(C=C(C=C1)N=C=O)C(F)(F)F | C8H3ClF3NO
reactant | 3-[4-(4-amino-2-chloro-phenoxy)-pyrimidin-2-ylamino]-propan-1-ol | 0.926 mmol, 273 mg | NC1=CC(=C(OC2=NC(=NC=C2)NCCCO)C=C1)Cl | C13H15ClN4O2
solvent | THF | 3 ml | C1CCOC1 | C4H8O
solvent | THF | 3 ml | C1CCOC1 | C4H8O
product | 1-(4-Chloro-3-trifluoromethyl-phenyl)-3-{3-chloro-4-[2-(3-hydroxy-propylamino)-pyrimidin-4-yloxy]-phenyl}-urea | 130 mg | ClC1=C(C=C(C=C1)NC(=O)NC1=CC(=C(C=C1)OC1=NC(=NC=C1)NCCCO)Cl)C(F)(F)F | C21H18Cl2F3N5O3
